US08975411B2
Synthesis of tert-butyl{[(mesityloxy)acetyl]imino}(methylamino)methylcarbamate
(Mesityloxy)acetic acid (7.77 g; 40 mmol), diisopropylethylamine (25.9 g; 200 mmol), tert-butyl imino(methylamino)methylcarbamate (7.08 g; 41 mmol), and 1-hydroxybenzotriazole monohydrate (7.35 g; 48 mmol) were dissolved in N,N-dimethylformamide (200 mL), 2-(1H)-benzotriazol-1-yl-1,1,3,3-tetramethyluronium hexafluorophosphate (18.2 g; 48 mmol) was added thereto, and the mixture was stirred for 17 hours at room temperature. To the reaction solution, ethyl acetate (400 mL) was added, and the mixture was washed with 10% aqueous citric acid solution, brine, and saturated aqueous sodium bicarbonate solution. The organic layer was dried over anhydrous magnesium sulfate and then distilled under reduced pressure to give 12.2 g of the title compound (yield 87%) as an oil.

reactant | (Mesityloxy)acetic acid | 40 mmol, 7.77 g | C1(=C(C(=CC(=C1)C)C)OCC(=O)O)C | C11H14O3
reactant | diisopropylethylamine | 200 mmol, 25.9 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | tert-butyl imino(methylamino)methylcarbamate | 41 mmol, 7.08 g | N=C(NC)NC(OC(C)(C)C)=O | C7H15N3O2
reactant | 1-hydroxybenzotriazole monohydrate | 48 mmol, 7.35 g | O.ON1N=NC2=C1C=CC=C2
reactant | 2-(1H)-benzotriazol-1-yl-1,1,3,3-tetramethyluronium hexafluorophosphate | 48 mmol, 18.2 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
solvent | N,N-dimethylformamide | 200 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 400 mL | C(C)(=O)OCC | C4H8O2
product | tert-butyl{[(mesityloxy)acetyl]imino}(methylamino)methylcarbamate | 12.2 g, yield 87% | C(C)(C)(C)OC(NC(NC)=NC(COC1=C(C=C(C=C1C)C)C)=O)=O | C18H27N3O4
